US05010082
Preparation of 2-hydrazino-4-methyl-6-cyclopropylpyrimidine
3.0 g of 2-chloro-4-methyl-6-cyclopropylpyrimidine are dissolved in 30 ml of ethanol; 3.8 ml of hydrazine hydrate are added and the mixture is stirred for 20 hours at room temperature. The solvent is then evaporated off in vacuo and the residue is recrystallised with ethyl acetate. M.p. 98°-99° C.

reactant | 2-chloro-4-methyl-6-cyclopropylpyrimidine | 3.0 g | ClC1=NC(=CC(=N1)C)C1CC1 | C8H9ClN2
reactant | hydrazine hydrate | 3.8 ml | O.NN
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-hydrazino-4-methyl-6-cyclopropylpyrimidine | N(N)C1=NC(=CC(=N1)C)C1CC1 | C8H12N4
